US07642264B2
4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.1) (1.76 g, 6.0 mmol) and commercially available 4-iodo-imidazole (1.28 g, 6.6 mmol) according to the general procedure IVa. Obtained as an off-white (2.59 g, 96%). MS (ISP) 451.0 [(M+H)+]; mp 258° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 6.0 mmol, 1.76 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
reactant | 4-iodo-imidazole | 6.6 mmol, 1.28 g | IC=1N=CNC1 | C3H3IN2
product | 4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)I | C14H7ClF3IN4
